US06235731B1
1) Synthesis of N-[1-(4-phenylbutan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 72.5 mg (1.94 mM) of N-(piperidin-4-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride and 1.4 ml (10.0 mM) of triethylamine in ethanol (7 ml) was added 0.61 g (2.33 mM) of 1-iodo-4-phenylbutane at room temperature and the mixture was refluxed under nitrogen for 6 hours. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over MgSO4, and concentrated. The resulting crude product was purified by column chromatography (methanol/ethyl acetate 30%) and recrystallization from ethyl acetate to provide the title compound as light-purple crystals.

reactant | N-(piperidin-4-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.94 mM, 72.5 mg | Cl.Cl.N1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 10.0 mM, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1-iodo-4-phenylbutane | 2.33 mM, 0.61 g | ICCCCC1=CC=CC=C1 | C10H13I
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-[1-(4-phenylbutan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)CCCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H28N4OS
